* D:\Work\electronics\MM_2EQ_Modern\src\simulations\2eq_dolganoff.asc
R1 V+ Vref 100K
R2 Vref 0 100K
R3 N002 N003 10k
R4 N001 N002 100K
R5 N005 N001 220k
C1 N004 N010 470p
C2 N009 N005 1.5n
C3 N004 N001 100p
C4 N004 N002 47n
C5 V+ 0 10µ
C6 Vref 0 10µ
C7 N003 0 10µ
C8 N004 N008 10µ
V1 V+ 0 9
V2 N006 0 AC 1 Rser=5K
XU1 N004 N002 N004 pot_plog Rtot=100K wiper=0.5 Rtap=12k tap=0.5
XU2 N010 N009 N001 pot_nlog Rtot=1000K wiper={w} Rtap=140k tap=0.5
XU3 Vref N001 V+ 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 0 N008 out pot_nlog Rtot=25K wiper=1 Rtap=2k tap=0.5
XU5 N007 N005 V+ 0 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 N006 0 2Meg
R7 N008 N004 47K
R8 N007 Vref 1.5Meg
C9 N007 N006 0.1µ
.ac oct 1000 20 20k
.include potentiometer_standard.lib
.step lin param w 0 1 0.1
* 100K log
* 1Meg rev log
.lib UniversalOpamps2.sub
.backanno
.end
